US07229997B2
Step 2: 1-(6-Chloro-5-trifluoromethyl-pyridin-2-yl)-3-(S)-methyl-piperazine
A solution of 4-(6-chloro-5-trifluoromethyl-pyridin-2-yl)-2-(S)-methyl-piperazine-1-carboxylic acid tert-butyl ester (7.80 g, 26.4 mmol) was dissolved in CH2Cl2/TFA (50:50; 30 mL) and stirred at room temperature over night. The solvent was removed at reduced pressure and the resulting oil was taken up between alkaline water (NaOH) and CHCl3. The aqueous phase was extracted once with CHCl3, the combined organic phases were dried (MgSO4) and the solvent was evaporated at reduced pressure to yield 5.79 g (78%) of a light yellow oil. A NOE between the methylene protons at C-2 in the piperazine ring and the C3-hydrogen in the pyridine ring was observed. Purity 100% (HPLC). Fragmenting MS analysis supports the stated structure. HRMS m/z calcd for C11H13ClF3N3 (M)+ 279.0750. found 279.0751

reactant | 4-(6-chloro-5-trifluoromethyl-pyridin-2-yl)-2-(S)-methyl-piperazine-1-carboxylic acid tert-butyl ester | 26.4 mmol, 7.80 g | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C1=NC(=C(C=C1)C(F)(F)F)Cl)C | C16H21ClF3N3O2
solvent | CH2Cl2 TFA | 30 mL | C(Cl)Cl.C(=O)(C(F)(F)F)O
product | 1-(6-Chloro-5-trifluoromethyl-pyridin-2-yl)-3-(S)-methyl-piperazine | 5.79 g, 78% | ClC1=C(C=CC(=N1)N1C[C@@H](NCC1)C)C(F)(F)F | C11H13ClF3N3
